US05750531
Synthesis of 6-ethyl-4-(N-methylphenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After N-methylaniline(0.10 ml, 9.22 mmol) was added to a mixture solution of 6-ethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine(1.20 g, 4.38 mmol) and dimethylformamide(10 ml), 0.22 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | N-methylaniline | 9.22 mmol, 0.10 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 6-ethyl-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloropyrimidine | 4.38 mmol, 1.20 g | C(C)C1=CC(=NC(=N1)N1CC2=CC=CC=C2CC1)Cl | C15H16ClN3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-ethyl-4-(N-methylphenylamino)-2-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 0.22 g, Yield: 13% | Cl.C(C)C1=CC(=NC(=N1)N1CC2=CC=CC=C2CC1)N(C)C1=CC=CC=C1 | InChI=1S/C22H24N4.ClH/c1-3-19-15-21(25(2)20-11-5-4-6-12-20)24-22(23-19)26-14-13-17-9-7-8-10-18(17)16-26;/h4-12,15H,3,13-14,16H2,1-2H3;1H
